US08957203B2
Step 1: Preparation of 4-chloro-2-(3-fluoro-4-isopropoxyphenyl)-7-methoxyisoquinoline
To a solution of 2,4-dichloro-7-methoxyisoquinolin (0.25 g, 1.1 mmol), 3-Fluoro-4-isopropoxyphenylboronic acid (0.21 g, 1.1 mmol) in 1,4-Dioxane (5 ml) and water (1 ml) was added K2CO3 (0.3 g, 2.2 mmol). The reaction mass was degasified for 20 min. Pd (Ph3P)4 (0.06 g, 0.05 mmol) was added to the above reaction mass and degasified again for 5 min at room temperature. The reaction vessel (Pressure tube) was sealed and heated at 90° C. for 18 h. The reaction mass was evaporated under reduced pressure. The residue was diluted with water and extracted with ethyl acetate. The organic layer was dried over anhydrous Na2SO4 and evaporated under reduced pressure to get crude compound. The crude compound was purified by silica gel chromatography to get desired compound (0.2 g, 54%) as white solid. 1H NMR (400 MHz, CHLOROFORM-d): δ ppm 8.08 (d, J=9.26 Hz, 1H) 7.93 (dd, J=12.51, 2.25 Hz, 1H) 7.80 (dt, J=8.50, 1.00 Hz, 1H) 7.74 (s, 1H) 7.45 (d, J=2.50 Hz, 1H) 7.09 (t, J=8.50 Hz, 1H), 3.99 (s, 3H), 3.95 (m, 1H), 1.41 (d, J=6.25 Hz, 6H).

reactant | 2,4-dichloro-7-methoxyisoquinolin | 1.1 mmol, 0.25 g | ClN1CC2=CC(=CC=C2C(=C1)Cl)OC | C10H9Cl2NO
reactant | 3-Fluoro-4-isopropoxyphenylboronic acid | 1.1 mmol, 0.21 g | FC=1C=C(C=CC1OC(C)C)B(O)O | C9H12BFO3
reactant | K2CO3 | 2.2 mmol, 0.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-Dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | 1 ml | O | H2O
product | 4-chloro-2-(3-fluoro-4-isopropoxyphenyl)-7-methoxyisoquinoline | 0.2 g, 54% | ClC1=CN(CC2=CC(=CC=C12)OC)C1=CC(=C(C=C1)OC(C)C)F | C19H19ClFNO2
